US07067179B1
A mixture of 19.3 g of 2-(propen-1-yl)-1,8-difluorofluorene (K-3) (crude product), 1.5 g of 5% palladium-carbon, 80 ml of ethanol and 80 ml of toluene was hydrogenated over an 8 hour period at room temperature and under atmospheric pressure, with constant stirring. The palladium-carbon was removed by filtration, the solvent was removed from the filtrate by evaporation under reduced pressure, and the residue was then purified by silica gel column chromatography (hexane) to yield 8.5 g of 2-propyl-1,8-difluorofluorene (K-4).

reactant | 2-(propen-1-yl)-1,8-difluorofluorene | 19.3 g | C(=CC)C1=C(C=2CC3=C(C=CC=C3C2C=C1)F)F | C16H12F2
reactant | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.5 g | [C].[Pd]
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 2-propyl-1,8-difluorofluorene | 8.5 g | C(CC)C1=C(C=2CC3=C(C=CC=C3C2C=C1)F)F | C16H14F2
